US07514452B2
A reaction and treatment was conducted in the same manner as in Reference Example 1 except that the 3-bromo-2-furancarboxylic acid and ethanol used in Reference Example 1 were replaced with 3-(tert-butoxycarbonylamino)-4-methoxybenzoic acid (5.00 g) and methanol (0.76 ml), respectively, thereby giving 5.51 g of methyl 3-(tert-butoxycarbonylamino)-4-methoxybenzoate.

reactant | 3-bromo-2-furancarboxylic acid | BrC1=C(OC=C1)C(=O)O | C5H3BrO3
reactant | ethanol | C(C)O | C2H6O
reactant | 3-(tert-butoxycarbonylamino)-4-methoxybenzoic acid | 5.00 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)O)C=CC1OC | C13H17NO5
solvent | methanol | 0.76 ml | CO | CH4O
product | methyl 3-(tert-butoxycarbonylamino)-4-methoxybenzoate | 5.51 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OC)C=CC1OC | C14H19NO5
